US06723724B2
Preparation of 2-Methoxy-1-(4-{3-[3-(3-phenoxyphenyl)isoxazol-5-yl]propyl}piperazinyl)benzene
About 2 min after dissolving 3-[3-(3-phenoxyphenyl)isoxazol-5-yl]propanal (10 mg, 0.03 mmol) and 1-(2-methoxyphenyl)piperazine (13.2 mg, 0.07 mmol) in 2 mL of dry methylene chloride, were added NaBH(OAc)3 (22 mg, 0.10 mmol) and molecular sieves (5 beads). The reaction mixture was reacted for 18.5 hr and followed the same processes as in Example 1 to obtain 11.5 mg (71.8%) of the target compound.

reactant | 3-[3-(3-phenoxyphenyl)isoxazol-5-yl]propanal | 0.03 mmol, 10 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)C1=NOC(=C1)CCC=O | C18H15NO3
reactant | 1-(2-methoxyphenyl)piperazine | 0.07 mmol, 13.2 mg | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | NaBH(OAc)3 | 0.10 mmol, 22 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Methoxy-1-(4-{3-[3-(3-phenoxyphenyl)isoxazol-5-yl]propyl}piperazinyl)benzene | 11.5 mg, 71.8% | COC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NO1)C1=CC(=CC=C1)OC1=CC=CC=C1 | C29H31N3O3
